US06509354B1
1.7 g (10.2 mmol) of 4-ethoxy-3-methyl-1,1,1-trifluoro-3-buten-2-on and 0.6 g (12.0 mmol) hydrazine hydrate were stirred in 50 ml of ethanol at room temperature for 2 hours. The ethanol was distilled off under reduced pressure, and the residue was separated with ethyl acetate and water. The organic layer was washed with water twice and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 1.3 g of 4-methyl-3-trifluoromethylpyrazol (yield 86.7%).

reactant | 4-ethoxy-3-methyl-1,1,1-trifluoro-3-buten-2-on | 10.2 mmol, 1.7 g | C(C)OC=C(C(C(F)(F)F)=O)C | C7H9F3O2
reactant | hydrazine hydrate | 12.0 mmol, 0.6 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-methyl-3-trifluoromethylpyrazol | 1.3 g, yield 86.7% | CC=1C(=NNC1)C(F)(F)F | C5H5F3N2
